US05424333
To a stirred suspension of t-butylhydrazine hydrochloride (0.86 g, 0.007M) in toluene (30 ml) was added 50% sodium hydroxide (0.55 g, 0.007M). After 15 minutes, the mixture was cooled to 5° C. and cyclohexenylcarbonyl chloride (1.0 g, 0.007M) and 50% sodium hydroxide (0.55 g, 0.007M) were added separately and simultaneously so as to maintain the reaction temperature below 10° C. After the addition, the reaction mixture was allowed to warm to room temperature and stirred for 1 hour. The mixture was diluted with hexane and the solid product isolated by filtration. This product (1.2 g, 0.006M) was dissolved in toluene (30 ml) and cooled on ice while stirring. To this mixture was added benzoylchloride (1.0 g, 0.007M) and 50% sodium hydroxide (1.3 g, 0.007M) simultaneously. After addition, the mixture was stirred for 1/2 hour, diluted with hexane and the solid product, N'-t-butyl-N-cyclohexenylcarbonyl-N'-benzoylhydrazine, was isolated by filtration.

reactant | t-butylhydrazine hydrochloride | 0.007M, 0.86 g | Cl.C(C)(C)(C)NN
reactant | sodium hydroxide | 0.007M, 0.55 g | [OH-].[Na+]
reactant | cyclohexenylcarbonyl chloride | 0.007M, 1.0 g | C1(=CCCCC1)C(=O)Cl | C7H9ClO
reactant | sodium hydroxide | 0.007M, 0.55 g | [OH-].[Na+]
reactant | benzoylchloride | 0.007M, 1.0 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | sodium hydroxide | 0.007M, 1.3 g | [OH-].[Na+]
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | N'-t-butyl-N-cyclohexenylcarbonyl-N'-benzoylhydrazine | C(C)(C)(C)N(NC(=O)C1=CCCCC1)C(C1=CC=CC=C1)=O | C18H24N2O2
